US07632857B2
(3-Fluoro-4′-methanesulfonyl-biphenyl-4-yl)-[2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-methanone
The title compound is prepared in a manner substantially analogous to Procedure A′, T′ and B′ starting from 4-bromo-2-fluoro-benzoic acid, 4-methanesulfonylphenyl boronic acid and 2-(R)-Methyl-1-(2-(S)-pyrrolidinylmethyl)pyrrolidine. MS (M+H) 445.2. Alternatively, the title compound maybe prepared by methylation of 3′-fluoro-4-[(2-(R)-methyl-1-(2-(S)-pyrrolidinylmethyl)pyrrolidine-1-carbonyl]-biphenyl-4-sulfinic acid using NaH and iodomethane at 0° C.

reactant | 4-bromo-2-fluoro-benzoic acid | BrC1=CC(=C(C(=O)O)C=C1)F | C7H4BrFO2
reactant | 4-methanesulfonylphenyl boronic acid | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
reactant | 2-(R)-Methyl-1-(2-(S)-pyrrolidinylmethyl)pyrrolidine | C[C@H]1N(CCC1)C[C@H]1NCCC1 | C10H20N2
reactant | NaH | [H-].[Na+]
reactant | iodomethane | IC | CH3I
product | (3-Fluoro-4′-methanesulfonyl-biphenyl-4-yl)-[2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-methanone | FC=1C=C(C=CC1C(=O)N1[C@@H](CCC1)CN1[C@@H](CCC1)C)C1=CC=C(C=C1)S(=O)(=O)C | C24H29FN2O3S
